US06096782
Synthesis of N-[N-(3,5-difluorophenyl)-D,L-alanyl]-(S)-2-aminohexanoic acid methyl ester
Following General Procedure E and using L-norleucine methyl ester hydrochloride (Sigma) and N-(3,5-difluorophenyl)-D,L-alanine, the title compound was prepared as a solid (mp=93-95° C.). The reaction was monitored by tlc (Rf=0.6 in 3% methanol/methylene chloride) and purification of this compound was by flash chromatography with 3% methanol/methylene chloride.

reactant | L-norleucine methyl ester hydrochloride | Cl.COC([C@@H](N)CCCC)=O
reactant | N-(3,5-difluorophenyl)-D,L-alanine | FC=1C=C(C=C(C1)F)NC(C)C(=O)O | C9H9F2NO2
product | N-[N-(3,5-difluorophenyl)-D,L-alanyl]-(S)-2-aminohexanoic acid methyl ester | COC([C@H](CCCC)NC(C(NC1=CC(=CC(=C1)F)F)C)=O)=O | C16H22F2N2O3
